US06489344B1
Large excess of morpholine was added to clean fractions of 1-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]-3-pyrroline-2,5-dione concentrated in vacuo, and purified by column chromatography eluting with 5-10% methanol/methylene chloride to obtain 1-[2({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]-3-morpholin-4-ylpyrrolidine-2,5-dione.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 1-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]-3-pyrroline-2,5-dione | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)N1C(C=CC1=O)=O)[N+](=O)[O-] | C21H16Cl2N8O4
product | 1-[2({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]-3-morpholin-4-ylpyrrolidine-2,5-dione | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)N1C(C(CC1=O)N1CCOCC1)=O)[N+](=O)[O-] | C25H25Cl2N9O5
